### PR TITLE
[Merged by Bors] - chore(*Deriv*): golf

### PR DESCRIPTION
**Pull request by urkud**
Assorted golf I did while working on a refactor. Submitting as a separate PR.

- Move `not_differentiableAt_abs_zero` to `Calculus.Deriv.Add`, golf.
- Rename `HasFDerivWithinAt_of_nhdsWithin_eq_bot` to `HasFDerivWithinAt.of_nhdsWithin_eq_bot`, golf.
- Protect `Filter.EventuallyEq.rfl`.
- Golf here and there.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/FDeriv/Basic.lean [hunk 1]
```diff
@@ -528,32 +528,24 @@ theorem DifferentiableWithinAt.differentiableAt (h : DifferentiableWithinAt 𝕜
...
 theorem DifferentiableWithinAt.hasFDerivWithinAt (h : DifferentiableWithinAt 𝕜 f s x) :
     HasFDerivWithinAt f (fderivWithin 𝕜 f s x) s x := by
   by_cases H : 𝓝[s \ {x}] x = ⊥
-  · exact HasFDerivWithinAt_of_nhdsWithin_eq_bot H
-  · simp only [fderivWithin]
-    rw [if_neg H]
-    dsimp only [DifferentiableWithinAt] at h
-    rw [dif_pos h]
+  · exact .of_nhdsWithin_eq_bot H
+  · unfold DifferentiableWithinAt at h
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/FDeriv/Basic.lean:547]: This would also work. Not sure if this is better.
```suggestion
  · unfold DifferentiableWithinAt at h

**Review by grunweg — APPROVED** [review]
Some of the new proofs are much nicer; thanks for doing this! Looks good to me.

(I'd rate my overall confidence as medium.)

File: Mathlib/Analysis/Calculus/FDeriv/Basic.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Analysis/Calculus/FDeriv/Basic.lean:547]: Oh, I made a copy-paste typo. Corrected.

File: Mathlib/Analysis/Calculus/Deriv/Add.lean [hunk 2]
```diff
@@ -282,6 +282,16 @@ theorem differentiableOn_neg : DifferentiableOn 𝕜 (Neg.neg : 𝕜 → 𝕜) s
   DifferentiableOn.neg differentiableOn_id
 #align differentiable_on_neg differentiableOn_neg
 
+theorem not_differentiableAt_abs_zero : ¬ DifferentiableAt ℝ (abs : ℝ → ℝ) 0 := by
+  intro h
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/Deriv/Add.lean:286]: This *might* be slightly clearer to an outside reader.
```suggestion
  by_contra h

Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/Deriv/Add.lean:286]: I think `intro` is preferred in Mathlib

**Comment by sgouezel** [comment]
bors r+
Thanks!
